* C:\Users\Bruno\Stuff\UTN Local\TC2\TS1\LTSpice\pasa_todo.asc
R1 Vo N001 1k
R2 N001 Vi 1k
C1 Vi N002 1µ
R3 0 N002 1k
V1 Vi 0 AC 1 0
XU1 N002 N001 Vcc Vee Vo level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V2 Vcc 0 12
V3 0 Vee 12
.ac dec 100 1 100k
.lib UniversalOpamps2.sub
.backanno
.end
